US04546174
2,2'-Azobis(2-methylpropanenitrile)
By method of Example 2, 2-amino-2-methylpropanenitrile (of 78.5% purity) was dichlorinated and coupled with further 2-amino-2-methylpropanenitrile in the presence of caustic soda and the following combinations of tetra alkyl quaternary ammonium chloride surfactant and added sodium bromide. The yields of title compound obtained were as shown.

reactant | 2-amino-2-methylpropanenitrile | NC(C#N)(C)C | C4H8N2
reactant | caustic soda | [OH-].[Na+]
reactant | sodium bromide | [Br-].[Na+]
product | 2,2'-Azobis(2-methylpropanenitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
